US06949648B2
6-Dimethylamino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
A solution of 6-amino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one (1.00 g, 3.43 mmol), sodium cyanotrihydroborate (1.08 g, 17.2 mmol) and paraformaldehyde (1.00 g) in acetic acid (20 mL) was stirred at room temperature for 18 hours under an argon atmosphere. The reaction solvent was evaporated under reduced pressure, and the residue was poured into iced water. After the solution was made basic by the addition of a sodium hydroxide solution, the organic matter was extracted with chloroform. The extract was washed with saturated brine and water and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform to chloroform:methanol=99:1) to give the title compound (0.56 g, 51% yield).

reactant | 6-amino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 3.43 mmol, 1.00 g | NC=1C=C2C(C3=C(NC2=CC1)N(N=C3C)C3=NC=CC=C3)=O | C16H13N5O
reactant | sodium cyanotrihydroborate | 17.2 mmol, 1.08 g | [B-]C#N.[Na+]
reactant | paraformaldehyde | 1.00 g | C=O | CH2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-Dimethylamino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 0.56 g, 51% yield | CN(C=1C=C2C(C3=C(NC2=CC1)N(N=C3C)C3=NC=CC=C3)=O)C | C18H17N5O
